US06987116B2
To 8 mL of acetic anhydride at −20° C. is added 1.2 mL of nitric acid (d=1.5). The mixture is kept at −20° C., and a solution of 4-thiophen-2-yl-butyric acid methyl ester (1.84 g, 10.0 mmol) in 12 mL of acetic anhydride is added dropwise. The reaction mixture is stirred for 10 minutes after completion of addition, and poured into an ice-water mixture. The product is extracted with ethyl acetate and the organic layer is washed with 10 N aqueous sodium hydroxide solution, dried and concentrated. The residue is purified by flash column chromatography eluting with 1:4 ethyl acetate:hexane to provide 1.32 g of 4-(5-nitro-thiophen-2-yl)-butyric acid methyl ester as a yellow oil; 1H NMR (DMSO-d6) δ 1.93 (quintet, J=7 Hz, 2H), 2.41 (t, J=7 Hz, 2H), 2.88 (t, J=7 Hz, 2H), 3.59 (s, 3H), 7.04 (d, J=5 Hz, 1H), 8.01 (d, J=5 Hz, 1H); MS 229.0 (M)+.

reactant | nitric acid | 1.2 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-thiophen-2-yl-butyric acid methyl ester | 10.0 mmol, 1.84 g | COC(CCCC=1SC=CC1)=O | C9H12O2S
solvent | acetic anhydride | 12 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 8 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(5-nitro-thiophen-2-yl)-butyric acid methyl ester | 1.32 g | COC(CCCC=1SC(=CC1)[N+](=O)[O-])=O | C9H11NO4S
